
* DERIVED LOCAL PARAMETERIZED COPY OF BVMSim/BQ.cir
* Baseline source SHA-256 is recorded in PREFLIGHT.md and provenance.json.
* Only the active BQ element values for L1, RJ1, RJ2 and IBias are parameter references;
* topology, all other values, model and subcircuit interface are unchanged.

* .subckt BQ IN OUT IB

* Lin IN 1 0.8p
* L0 4 OUT 1.323p
* L1 2 3 3.91p
* L2 3 4 3.91p
* BJs 1 2 jjmit area=1.33
* BJL1 2 0 jjmit area=1.12
* BJL2 4 0 jjmit area=1.89
* RB IB 3 8.5
* * IB 0 IBias pwl(0 0 1p 100u)

* .ends BQ



.subckt BQ IN OUT

Lin IN 1 1.5p
L1 2 3 {L1_VALUE}
L2 3 4 2p
BJs 1 2 jjmit area=4.5
BJ1 2 0 jjmit area=0.9
RJ1 2 0 {RJ1_VALUE}
BJ2 4 0 jjmit area=2
RJ2 4 0 {RJ2_VALUE}
L3 4 OUT 1.3p

* RB IB 3 9
IB 0 3 pwl(0 0 1p IB_VALUE)
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)
.ends BQ
